US05998433
a) Synthesis of N,N-dimethyl-[5-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.325 g (1.1 mmol) of 4-(2,3-dichlorobenzoyl)benzoic acid and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. After the solvent was distilled off, water was added, followed by 2 extractions with ethyl acetate. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was dissolved in 10 ml of acetic acid; 0.135 ml (1.50 mmol) of 50% aqueous dimethylamine and 0.122 ml (1.50 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 100 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with ethyl acetate 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate/methanol=5/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC=2CNCCC21
reactant | 4-(2,3-dichlorobenzoyl)benzoic acid | 1.1 mmol, 0.325 g | ClC1=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=CC=C1Cl | C14H8Cl2O3
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | dimethylamine | 1.50 mmol, 0.135 ml | CNC | C2H7N
reactant | formaldehyde | 1.50 mmol, 0.122 ml | C=O | CH2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-[5-[4-(2,3-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=C(C(=CC=C1)Cl)Cl)=O)=O | C24H22Cl2N2O3
